US05225425
1-[[3-[Acetyl[[4-(tetradecyloxy)phenyl]methyl]amino]phenyl]methyl]-3.4-dimethylpyridinium bromide
A mixture of 1.6 g of N-[3-(bromomethyl)phenyl]-N-[[4-(tetradecyloxy)phenyl]methyl]acetamide and 1.29 g of 3,4-lutidine in 25 ml of acetonitrile is refluxed under argon for 5 hours. The solvent is evaporated and the residue stirred with ether. The solid is collected by centrifugation, washed several times with ether and vacuum dried to give the desired product as a solid, m.p. 100°-103° C.

reactant | N-[3-(bromomethyl)phenyl]-N-[[4-(tetradecyloxy)phenyl]methyl]acetamide | 1.6 g | BrCC=1C=C(C=CC1)N(C(C)=O)CC1=CC=C(C=C1)OCCCCCCCCCCCCCC | C30H44BrNO2
reactant | 3,4-lutidine | 1.29 g | N1=CC(=C(C=C1)C)C | C7H9N
solvent | acetonitrile | 25 ml | C(C)#N | C2H3N
product | 1-[[3-[Acetyl[[4-(tetradecyloxy)phenyl]methyl]amino]phenyl]methyl]-3.4-dimethylpyridinium bromide | [Br-].C(C)(=O)N(C=1C=C(C=CC1)C[N+]1=CC(=C(C=C1)C)C)CC1=CC=C(C=C1)OCCCCCCCCCCCCCC | InChI=1S/C37H53N2O2.BrH/c1-5-6-7-8-9-10-11-12-13-14-15-16-26-41-37-22-20-34(21-23-37)30-39(33(4)40)36-19-17-18-35(27-36)29-38-25-24-31(2)32(3)28-38;/h17-25,27-28H,5-16,26,29-30H2,1-4H3;1H/q+1;/p-1
